*****************==== Inverter ====*******************
*********** VDMOS ****************************
vdd 1 0 5

.subckt inv out in vdd vss
mp1 out in vdd vdd p1
mn1 out in vss vss n1
.ends

xinv 3 2 1 0 inv

Vin 2 0 Pulse (0 5 10n 10n 10n 140n 300n)

.tran 1n 1u

.control

run

* current and output in a single plot
plot v(2) v(3)

.endc

*.model  N1  vdmos ; nmos level=1
*.model  P1  vdmos ; pmos level=1
.model  N1  vdmos cgdmin=0.2p cgdmax=1p a=2 cgs=0.5p rg=5k rb=1e9 cjo=0.1p
.model  P1  vdmos cgdmin=0.2p cgdmax=1p a=2 cgs=0.5p rg=5k rb=1e9 cjo=0.1p pchan
.end
